US05814634
To a solution of methyl 4-hydroxybenzoate (7.61 g) in acetone(80 ml) were added geranyl bromide (10.9 g) and potassium carbonate (13.8 g), and then the mixture was refluxed with heating for 6 hours. After the reaction, water (150 ml) was added to the reaction mixture, and the mixture was extracted with chloroform. The organic layer was dried over sodium sulfate anhydride and then concentrated under a vacuum. The residue was purified by silica gel column chromatography (hexane: ethyl acetate=9:1), thereby yielding 13.00 g of methyl 4-geranyloxybenzoate.

reactant | methyl 4-hydroxybenzoate | 7.61 g | OC1=CC=C(C(=O)OC)C=C1 | C8H8O3
reactant | geranyl bromide | 10.9 g | C(\C=C(/C)\CCC=C(C)C)Br | C10H17Br
reactant | potassium carbonate | 13.8 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | 150 ml | O | H2O
solvent | acetone | 80 ml | CC(=O)C | C3H6O
product | methyl 4-geranyloxybenzoate | 13.00 g | C(\C=C(/C)\CCC=C(C)C)OC1=CC=C(C(=O)OC)C=C1 | C18H24O3
